US07683185B2
6-(4′-Chloro-biphenyl-4-ylsulfanyl)hexanoic acid methyl ester (28i).
To a degassed solution of 6-(4-bromo-phenylsulfanyl)-hexanoic acid methyl ester (500 mg, 1.58 mmol) in ethylene glycol dimethyl ether (20 mL) was added 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (131 mg, 0.16 mmol). The resulting mixture was stirred for 5 min at room temperature under an argon atmosphere. 4-Chlorophenylboronic acid (494 mg, 3.16 mmol) was added. A solution of cesium carbonate (1.8 g, 5.54 mmol) in water (3 mL) was added. The mixture was stirred at reflux for 1 hour, allowed to cool down to room temperature and concentrated under reduced pressure. The residue was taken up in ethyl acetate (75 mL). This solution was washed with saturated aqueous sodium hydrogen carbonate (2×50 mL), distilled water (2×50 mL) and brine (2×50 mL). The organic layer was dried over anhydrous MgSO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (5:95 to 10:90 diethyl ether:40-60° C. petroleum ether) to give a solid that was recrystallised from diethyl ether/40-60° C. petroleum ether to give the title compound (465 mg, 84%) as a solid, mp 87-88° C.

reactant | 6-(4-bromo-phenylsulfanyl)-hexanoic acid methyl ester | 1.58 mmol, 500 mg | COC(CCCCCSC1=CC=C(C=C1)Br)=O | C13H17BrO2S
reactant | 4-Chlorophenylboronic acid | 3.16 mmol, 494 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | cesium carbonate | 5.54 mmol, 1.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | ethylene glycol dimethyl ether | 20 mL | COCCOC | C4H10O2
solvent | water | 3 mL | O | H2O
product | 6-(4′-Chloro-biphenyl-4-ylsulfanyl)hexanoic acid methyl ester | 465 mg, 84% | COC(CCCCCSC1=CC=C(C=C1)C1=CC=C(C=C1)Cl)=O | C19H21ClO2S
